US08491868B2
Preparation of 3-(2-Fluoroethoxy)benzonitrile
To a flame dried 50 mL round bottom flask was added 3-cyanophenol (1.0 g, 8.39 mmol) followed by 10 mL dimethyl sulfoxide. Potassium iodide (7.0 mg, 0.042 mmol) and potassium carbonate (1.74 g, 12.6 mmol) were added. The flask was immersed in an oil bath at 85° C. and 1-bromo-2-fluoroethane (1.17 g, 0.686 mL, 9.23 mmol) was added. The reaction was stirred at this temperature for 30 min, cooled to room temperature, filtered, and the filtrate was diluted with water (100 mL). The resulting solution was extracted with dichloromethane (3×30 mL). The organic layer was then washed with water (5×20 mL) and brine, and dried over magnesium sulfate. The solution was filtered and concentrated in vacuo to obtain 1.31 g (94%) of an oil as the product. 1H NMR (600 MHz, CDCl3): δ 7.37 (m, 1H), 7.26 (m, 1H), 7.15 (m, 2H), 4.75 (t of d, 2H, J=4.2, 46.8 Hz), 4.22 (t of d, 2H, J=4.2, 27.6 Hz). 13C NMR (75 MHz, CDCl3): δ 158.4, 130.4, 125, 119.8, 117.9, 117.5, 113.3, 81 (d, J=171 Hz), 67.4 (d, J=10.1 Hz).

reactant | 3-cyanophenol | 8.39 mmol, 1.0 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 9.23 mmol, 0.686 mL, 1.17 g | BrCCF | C2H4BrF
catalyst | Potassium iodide | 0.042 mmol, 7.0 mg | [I-].[K+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-(2-Fluoroethoxy)benzonitrile | 1.31 g, 94% | FCCOC=1C=C(C#N)C=CC1 | C9H8FNO
